US03997594
1-Aminocyclopentanecarbohydroxamic Acid Hydrochloride
A mixture of 7.2 g. of hydroxylamine hydrochloride, 15 ml. of triethylamine, and 100 ml. of methanol was stirred until the solutes dissolved. There was then added 8.1 g. of 1-aminocyclopentane carboxylic acid N-carboxyanhydride (NCA), followed, after the initial gas evolution ceased, by another 8.1 g. batch. After stirring the mixture at room temperature for 30 minutes, 250 ml. of isopropanol was added. The system was filtered, the filtrate was evaporated nearly to dryness, and the concentrate was extracted with 100 ml. of water and adjusted to pH 2.0 with HCl. The extract was evaporated to near dryness, taken up in a mixture of 200 ml. of isopropanol and 50 ml. of methanol, concentrated to 50 ml., and chilled. The crystalline precipitate, weighing 9.5 g., was recrystallized from methanolisopropanol, finally yielding 6 g.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-Aminocyclopentanecarbohydroxamic Acid Hydrochloride | Cl.NC1(CCCC1)C(=O)NO | InChI=1S/C6H12N2O2.ClH/c7-6(5(9)8-10)3-1-2-4-6;/h10H,1-4,7H2,(H,8,9);1H
